US07592373B2
3.34.a. 3-(2,4-dichlorophenyl)propynoic acid-[4-(2-diethylaminoethyl)phenyl]amide hydrochloride
Prepared analogously to Example 2.3.f. from 4-(2-diethylaminoethyl)phenylamine and (2,4-dichlorophenyl)propynoic acid. Yield: 0.3 g (47% of theory); melting point: 204° C.-208° C.; C21H22Cl2N2O (M=425.78); calc.: molecular ion peak (M+H)+: 389/391/393; found: molecular ion peak (M+H)+: 389/391/393; Rf value: 0.6 (silica gel, dichloromethane/ethanol/ammonia (5:1:0.01)).

reactant | 4-(2-diethylaminoethyl)phenylamine | C(C)N(CCC1=CC=C(C=C1)N)CC | C12H20N2
reactant | (2,4-dichlorophenyl)propynoic acid | ClC1=C(C=CC(=C1)Cl)C#CC(=O)O | C9H4Cl2O2
reactant | dichloromethane ethanol ammonia | ClCCl.C(C)O.N
product | 3-(2,4-dichlorophenyl)propynoic acid-[4-(2-diethylaminoethyl)phenyl]amide hydrochloride | Cl.C(C)N(CCC1=CC=C(C=C1)NC(C#CC1=C(C=C(C=C1)Cl)Cl)=O)CC | InChI=1S/C21H22Cl2N2O.ClH/c1-3-25(4-2)14-13-16-5-10-19(11-6-16)24-21(26)12-8-17-7-9-18(22)15-20(17)23;/h5-7,9-11,15H,3-4,13-14H2,1-2H3,(H,24,26);1H
